US04735887
Transesterification Synthesis Of Morpholinoethyl Methacrylate
A 1000 ml resin kettle was equipped with a still head, air bubbler, and thermometer. The kettle was placed in a regulated water bath, set at 80°. 750 ml methyl methacrylate was added to the kettle followed by a solution containing 250 g morpholinoethanol, 5.0 g sodium methoxide and 0.5 g p-methoxyphenol. During the 120 minute reaction time, air was bubbled slowly through the vigorously stirred solution. After 30 and 60 minutes, 5.0 g sodium methoxide was added. At the end of the reaction time, the mixture was cooled and neutralized with 17.0 g glacial acetic acid.

reactant | morpholinoethanol | 250 g | O1CCN(CC1)C(C)O | C6H13NO2
reactant | sodium methoxide | 5.0 g | C[O-].[Na+]
reactant | p-methoxyphenol | 0.5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | methyl methacrylate | 750 ml | C(C(=C)C)(=O)OC | C5H8O2
product | Morpholinoethyl Methacrylate | C(C(=C)C)(=O)OCCN1CCOCC1 | C10H17NO3
